* C:\Users\rb\Documents\HSRW\Teaching\EE_EEng\REPO\EE_1.08_2_EEng_WS2022\eeng0100_Kirchhoff\Voltage_Divider_V001.asc
R1 N002 0 {R+1u}
R2 N001 N002 {1k-R+1u}
V1 N001 0 5V
.step param R 0 1000 100
.op
.backanno
.end
